US08809342B2
(±)-2-bromo-5-(1-hydroxybutyl)benzonitrile
A round bottom flask was charged with the 2-bromo-5-iodobenzonitrile (2.00 g, 6.49 mmol) and THF (9 mL). Solution cooled down to −8° C. (ice/brine bath). Turbo Grignard 1.3M in THF (5.50 mL, 7.14 mmol) is then added in one portion and the reaction stirred for 15 minutes at −8° C. Butyraldehyde (0.698 μL, 7.79 mmol) is then charged in another flask and the preformed anion is added over the aldehyde/THF (4 mL) via canula and then, reaction allowed to warmed at room temperature overnight under magnetic stirring. Ammonium chloride (sat. aq.) added to the mixture. Extracted 3× with Ethyl Acetate. Combined organic layers washed with water (1×), with brine (1×), dried over sodium sulfate, filtered and concentrated to afford the crude material. Purification by silica gel flash chromatography (Ethyl Acetate/Heptane) provide the title compound as a yellow oil (1.33 g, 80.6%). 1H NMR (400 MHz, DMSO-d6) δ 0.83 (t, J=7.41 Hz, 3 H) 1.18-1.34 (m, 2 H) 1.46-1.57 (m, 2 H) 4.52-4.58 (m, 1 H) 5.37 (d, J=4.88 Hz, 1 H) 7.56 (dd, J=8.58, 1.95 Hz, 1 H) 7.79 (d, J=8.39 Hz, 1 H) 7.81 (d, J=2.15 Hz, 1 H); MS (M): 255.

reactant | 2-bromo-5-iodobenzonitrile | 6.49 mmol, 2.00 g | BrC1=C(C#N)C=C(C=C1)I | C7H3BrIN
reactant | Butyraldehyde | 7.79 mmol, 0.698 μL | C(CCC)=O | C4H8O
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 7.14 mmol, 5.50 mL | C1CCOC1 | C4H8O
product | (±)-2-bromo-5-(1-hydroxybutyl)benzonitrile | 1.33 g, 80.6% | BrC1=C(C#N)C=C(C=C1)C(CCC)O | C11H12BrNO
